US04746653
A solution of 200 mg of 4-(α-phosphonoacetamido)-picolinic acid in 50 ml of water is hydrogenated over 1.0 g of platinum oxide at 3 atmospheres pressure for 8 hours. After filtration and evaporation to dryness the residue is triturated with ethanol to afford 4-(α-phosphonoacetamido)-piperidine-2-carboxylic acid as a mixture of cis and trans isomers.

reactant | 4-(α-phosphonoacetamido)-picolinic acid | 200 mg | P(=O)(O)(O)CC(=O)NC1=CC(=NC=C1)C(=O)O | C8H9N2O6P
solvent | water | 50 ml | O | H2O
catalyst | platinum oxide | 1.0 g | [Pt]=O
product | 4-(α-phosphonoacetamido)-piperidine-2-carboxylic acid | P(=O)(O)(O)CC(=O)NC1CC(NCC1)C(=O)O | C8H15N2O6P
